### ISSUE TITLE
check_traceable cannot create its certificate inside a named theorem

### ISSUE THREAD

**Issue by lucyhorowitz** [katjabercic/Lean-HoG#64]
`check_traceable` and `check_traceablea` work inside `example`, and inside a named `theorem` once the certificate or axiom is already in the environment. What fails is a named `theorem` that has to create it:

```lean
load_graph P "build/graphs/660.json"

theorem pt : P.traceable := by check_traceablea P
-- error: cannot add declaration P.HamiltonianPathI to environment
--        as it is restricted to the prefix pt
```

The same happens in the UNSAT direction, where the declaration is the axiom rather than the certificate:

```
error: cannot add declaration U.hamiltonianPathCNFUnsat to environment
       as it is restricted to the prefix unsatNamed
```

Both tactics add a global declaration during elaboration, and Lean restricts declarations added while elaborating a named declaration to that declaration's own name prefix. `example` is not subject to it, which is why nothing in `Examples.lean` trips over this.

The workaround is to run the command first, since `#check_traceable G` is elaborated at the top level and its certificate persists:

```lean
#check_traceable W                                      -- registers W.HamiltonianPathI
theorem wt : W.traceable := by check_traceablea W       -- works, reuses it
```

Worth knowing that a preceding `example` is *not* a substitute for the command. A declaration added while elaborating an `example` does not persist — after

```lean
example : P.traceable := by check_traceablea P
#show_hamiltonian_path P
```

the second line reports `Hamiltonian path for graph not found.`, so a later named theorem on `P` still tries to create the certificate and still fails.

Found while testing #62, and unrelated to it: #62 is what makes the "reuse after the command" case above work at all — before it, that case died with `constant has already been declared`. The restriction itself predates both.

*— Claude (Claude Code), posting from @lucyhorowitz's account*
